US08022062B2
6-(tert-Butylthio)nicotinonitrile:
Add sodium ethoxide (12 mL of 21% w/v in ethanol, 36 mmol) to a solution of 2-methyl-2-propanethiol (4.06 mL, 36 mmol) in anhydrous ethanol (90 mL) at 0° C. under nitrogen atmosphere. Stir the solution and allow it to warm to room temperature over 30 min. Add 6-chloronicotinonitrile (5 g, 36 mmol) and then heat the reaction to reflux overnight. Cool to room temperature, add saturated aqueous NaHCO3 and concentrate in vacuo. Extract into EtOAc or dichloromethane and wash with brine. Dry over MgSO4 and concentrate in vacuo to give the desired intermediate as orange crystals (6.31 g, 91%). MS (ES+) m/z: 193 (M+H)+.

reactant | sodium ethoxide | 36 mmol, 12 mL | [O-]CC.[Na+]
reactant | 2-methyl-2-propanethiol | 36 mmol, 4.06 mL | CC(C)(C)S | C4H10S
reactant | 6-chloronicotinonitrile | 36 mmol, 5 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 6-(tert-Butylthio)nicotinonitrile | 6.31 g, 91% | C(C)(C)(C)SC1=NC=C(C#N)C=C1 | C10H12N2S
